US07381719B2
Part B: 6-Chloropyridazine-3-carboxamide
Dissolve methyl 6-chloropyridazine-3-carboxylate (0.498 g, 2.89 mmol) in methanol (28 mL). Cool the solution to 0° C. with an acetone/dry ice bath. Bubble ammonia into the reaction mixture, then allow it to warm to 0° C. over 1 hour before concentrating to give the title compound (0.451 g, 99%): TOF MS ES+ 157.0 (M)+, HRMS calcd for C5H4N3OCl 157.0043 (M)+, found 157.0010, time 4.45 min; HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.1 TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 10-20% over 5 min then 20-95% over 18], tR=5.2 min, 100% purity.

reactant | methyl 6-chloropyridazine-3-carboxylate | 2.89 mmol, 0.498 g | ClC1=CC=C(N=N1)C(=O)OC | C6H5ClN2O2
reactant | ammonia | N | H3N
solvent | methanol | 28 mL | CO | CH4O
product | 6-Chloropyridazine-3-carboxamide | 0.451 g, 99% | ClC1=CC=C(N=N1)C(=O)N | C5H4ClN3O
